US07585877B2
Adapting a protocol by Uchiyama et al (J. Am. Chem. Soc., 2002, 124, 8514-8515), which reference is incorporated herein by reference in its entirety, 2-chloro-4-fluorobenzonitrile (311 mg, 2.0 mmol) in dry THF (1.0 mL) was added dropwise to lithium di-t-butyl(2,2,6,6-tetramethylpiperidino)zinncate (4.0 mmol in 10 mL THF, Uchiyama et al J. Am. Chem. Soc., 1999, 121, 3539-3540, which is incorporated herein by reference in its entirety) at 0° C. and stirred at 0° C. for 3.5 h. Iodine (5.08 g, 20.0 mmol) was then added and the reaction was stirred at r.t. overnight. Na2S2O3 (1.0 M, 50 mL) and saturated aqueous NH4Cl (100 mL) were added, followed by extraction with dichloromethane (3×100 mL), drying of the combined organic layers over Na2SO4, filtering, and removal of the solvents in vacuo. The residue was passed through a pad of silica gel eluting with EtOAc/n-heptane (1:40), affording 112 mg (0.40 mmol) of 2-chloro-4-fluoro-3-iodobenzonitrile. This material was combined with nortropine (114 mg, 0.90 mmol), K2CO3 (186 mg, 0.134 mol) and DMSO (2.0 mL), and stirred at 130° C. for 1.5 h. The crude mixture thus obtained was diluted with n-heptane (10 mL), passed through a pad of silica gel using EtOAc/n-heptane (1:2), concentrated and purified by preparative TLC (EtOAC/n-heptane, 1:1) to give 1.5 mg (1.7%) of 195JP18 as an off-white solid.

reactant | 2-chloro-4-fluorobenzonitrile | 2.0 mmol, 311 mg | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
reactant | Iodine | 20.0 mmol, 5.08 g | II | I2
reactant | Na2S2O3 | 1.0 M, 50 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-fluoro-3-iodobenzonitrile | 0.40 mmol, 112 mg | ClC1=C(C#N)C=CC(=C1I)F | C7H2ClFIN
